US09034855B2
tert-Butyl{1-(2-chlorophenyl)-2-[(2-methoxyethyl)-amino]-2-oxoethyl}carbamate
A mixture of 250 mg (0.88 mmol) of [(tert-butoxycarbonyl)amino](2-chlorophenyl)acetic acid, 177 mg (1.31 mmol) of HOBt, 252 mg (1.31 mmol) of EDC and 72 mg (0.96 mmol) of 2-methoxyethanamine in 6.3 ml of DMF was stirred at RT for 2 h. For purification, 1 ml of 1N hydrochloric acid was added and the entire reaction mixture was separated by preparative HPLC [Method 6]. The appropriate fraction was concentrated on a rotary evaporator and the residue was dried under high vacuum. This gave 269 mg (90% of theory) of the title compound.

reactant | [(tert-butoxycarbonyl)amino](2-chlorophenyl)acetic acid | 0.88 mmol, 250 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C=CC=C1)Cl | C13H16ClNO4
reactant | HOBt | 1.31 mmol, 177 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.31 mmol, 252 mg
reactant | 2-methoxyethanamine | 0.96 mmol, 72 mg | COCCN | C3H9NO
solvent | DMF | 6.3 ml | CN(C)C=O | C3H7NO
product | tert-Butyl{1-(2-chlorophenyl)-2-[(2-methoxyethyl)-amino]-2-oxoethyl}carbamate | C(C)(C)(C)OC(NC(C(=O)NCCOC)C1=C(C=CC=C1)Cl)=O | C16H23ClN2O4
